US07576215B2
4) Preparation of N-Methoxy-N-methyl-4-phenyl-8-(trifluoromethyl)quinoline-3-carboxamide.
4-Phenyl-8-(trifluoromethyl)quinoline-3-carboxylic acid (6.19 g, 19.51 mmol) was taken into DMF (75 mL) and cooled to 0° C. Then PyBOP (10.66 g, 20.49 mmol) was added followed by N,O-dimethylhydroxylamine hydrochloride (2.09 g, 21.46 mmol) and diisopropylethylamine (8.50 mL, 48.78 mmol). The reaction was stirred for 3 hours allowing to warm to room temperature during that time. The reaction was poured into water and extracted with ethyl acetate. The combined organics was washed with water, half-saturated brine and then dried over magnesium sulfate. Purification was carried out via column chromatography using 30% ethyl acetate in hexane as the eluent to yield the desired compound as a white solid (6.37 g, 90.6%). MS (ESI) m/z 361 ([M+H]+); Anal. Calcd for C19H15F3N2O2.0.15H2O: C, 62.86; H, 4.25; N, 7.72. Found: C, 62.89; H, 4.14; N, 7.55.

reactant | 4-Phenyl-8-(trifluoromethyl)quinoline-3-carboxylic acid | 19.51 mmol, 6.19 g | C1(=CC=CC=C1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)O | C17H10F3NO2
reactant | PyBOP | 20.49 mmol, 10.66 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | N,O-dimethylhydroxylamine hydrochloride | 21.46 mmol, 2.09 g | Cl.CNOC
reactant | diisopropylethylamine | 48.78 mmol, 8.50 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | water | O | H2O
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | N-Methoxy-N-methyl-4-phenyl-8-(trifluoromethyl)quinoline-3-carboxamide | 6.37 g, 90.6% | CON(C(=O)C=1C=NC2=C(C=CC=C2C1C1=CC=CC=C1)C(F)(F)F)C | C19H15F3N2O2
